US06297239B1
Step C: Preparation of Acetic Acid (4-Cyano-3-fluoro-phenyl)-(1-trityl-1H-imidazol-4-yl)-methyl Ester
2-Fluoro-4-[hydroxy-(1-trityl-1H-imidazol-4-yl)-methyl]-benzonitrile (4.05 g, 8.81 mmol), pyridine (2.14 mL, 26.4 mmol), and acetic anhydride (12.5 mL, 132 mmol) were stirred in anhydrous DMF (60 mL) for 3 h under Ar. The reaction was concentrated in uacuo, diluted with EtOAc (250 mL), washed with H2O (2×), brine, dried (MgSO4) and concentrated to give the title compound.

reactant | 2-Fluoro-4-[hydroxy-(1-trityl-1H-imidazol-4-yl)-methyl]-benzonitrile | 8.81 mmol, 4.05 g | FC1=C(C#N)C=CC(=C1)C(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C30H22FN3O
reactant | pyridine | 26.4 mmol, 2.14 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 132 mmol, 12.5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | Acetic Acid (4-Cyano-3-fluoro-phenyl)-(1-trityl-1H-imidazol-4-yl)-methyl Ester | C(#N)C1=C(C=C(C=C1)C(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC(C)=O)F | C32H24FN3O2
